US07067517B2
Methyl-phenyl-carbamic acid 4-(5-chloro-pyridin-2-yloxy)-phenyl ester
The title product was prepared from 4-(5-chloro-pyridin-2-yloxy)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to column chromatography (ethyl acetate/heptane (1:5) (85%, white solid). HPLC-MS: m/z=355.1 (M+1); Rt: 4.56 min.

reactant | 4-(5-chloro-pyridin-2-yloxy)-phenol | ClC=1C=CC(=NC1)OC1=CC=C(C=C1)O | C11H8ClNO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | Methyl-phenyl-carbamic acid 4-(5-chloro-pyridin-2-yloxy)-phenyl ester | ClC=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C19H15ClN2O3
